US04080193
13 g (0.14 mole) of dimethylcarbamic acid chloride were added dropwise to 29 g (0.1 mole) of 4-(2-chloro-4-trifluoromethyl-phenoxy)-aniline, dissolved in 50 ml of pyridine, at 0° C. The mixture was warmed to 70°-75° C for half an hour, the bulk of the pyridine was stripped off in vacuo and the residue was poured into water and acidified with dilute hydrochloric acid. The precipitate was filtered off, dried and recrystallized from toluene. 29 g (89% of theory) of N,N-dimethyl-N'-[4-(2-chloro-4-trifluoromethylphenoxy)-phenyl]-urea were obtained as pink crystals of melting point 140° C.

reactant | dimethylcarbamic acid chloride | 0.14 mole, 13 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | 4-(2-chloro-4-trifluoromethyl-phenoxy)-aniline | 0.1 mole, 29 g | ClC1=C(OC2=CC=C(N)C=C2)C=CC(=C1)C(F)(F)F | C13H9ClF3NO
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | N,N-dimethyl-N'-[4-(2-chloro-4-trifluoromethylphenoxy)-phenyl]-urea | 29 g, 89% | CN(C(=O)NC1=CC=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)C | C16H14ClF3N2O2
